US07276516B2
4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid methyl ester
Combine 3-Cyclopentyl-1H-indazole (2.168 g 11.640 mmole) with triethylamine (3.526 g, 34.92 mmoles) in 50 mls of dichloromethane. Dissolve 4-Chlorosulfonyl-benzoic acid methyl ester (4.085 g, 17.460 mmole) in dichloromethane 50 ml and add drop wise to solution at 0° C. Stir the reaction is for 12 hrs. Dilute the reaction and wash with NaHCO3. Dry organic layer over MgSO4 and concentrate. Purify the residue via column chromatography with a mixture of ethyl acetate and hexanes to isolate 2.046 g (Yield=48.5%) of the title compound: MS ES+385.3.

reactant | 3-Cyclopentyl-1H-indazole | 11.640 mmole, 2.168 g | C1(CCCC1)C1=NNC2=CC=CC=C12 | C12H14N2
reactant | triethylamine | 34.92 mmoles, 3.526 g | C(C)N(CC)CC | C6H15N
reactant | 4-Chlorosulfonyl-benzoic acid methyl ester | 17.460 mmole, 4.085 g | COC(C1=CC=C(C=C1)S(=O)(=O)Cl)=O | C8H7ClO4S
solvent | dichloromethane | 50 mls | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid methyl ester | 2.046 g, Yield=48.5% | COC(C1=CC=C(C=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)C1CCCC1)=O | C20H20N2O4S
